US06458819B1
3-(2-Phenyl-2-oxoethyl)-4-methyl-5-(hydroxymethyl)-thiazolium chloride.
The neat reaction of 4-methyl-5-(hydroxymethyl)-thiazole (590 mg, 4.57 mmoL) and 2-chloroacetophenone (710 mg, 4.59 mmoL) was heated at 110° C. The mixture solidified within 15 minutes. Acetonitrile (10 mL) was added and the mixture refluxed for another 3 hrs. It was cooled to room temperature and tert-butyl methyl ether (5 mL) was added and the reaction mixture was left overnight at room temperature. The product crystallized was filtered and washed well with a mixture of hexanes:EtOAc (1:1, v/v) and dried. It was recrystallized from a mixture of actonitrile/ethanol/tert-butyl methyl ether; yield 130 mg (10%); mp. 240-242° C. (dec.).

reactant | 4-methyl-5-(hydroxymethyl)-thiazole | 590 mg | CC=1N=CSC1CO | C5H7NOS
reactant | 2-chloroacetophenone | 710 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | Acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | tert-butyl methyl ether | 5 mL | COC(C)(C)C | C5H12O
product | 3-(2-Phenyl-2-oxoethyl)-4-methyl-5-(hydroxymethyl)-thiazolium chloride | [Cl-].C1(=CC=CC=C1)C(C[N+]1=CSC(=C1C)CO)=O | InChI=1S/C13H14NO2S.ClH/c1-10-13(8-15)17-9-14(10)7-12(16)11-5-3-2-4-6-11;/h2-6,9,15H,7-8H2,1H3;1H/q+1;/p-1
